US07279470B2
4-Phenyl-piperidine-1-carboxylic acid 4-(5-methyl-pyridin-2-ylmethyl)-phenyl ester
To a solution of 4-(5-methyl-pyridin-2-ylmethyl)phenol (0.8 mmol) prepared as described above and ethyldiisopropylamine (1.5 mmol) in CH2Cl2 (5 mL) at −30° C. was added trichloromethyl chloroformate (1.0 mmol). The solution was stirred at −30° C. for 10 min and at reflux temperature for 2 h. The solution was evaporated to dryness and redissolved in CH2Cl2 (5 mL) and cooled to 0° C. before addition of 4-phenylpiperidine (1.5 mmol). The solution was stirred at room temperature for 16 h evaporated to give the crude product which was purified by FC (Quad flash 40 CH2Cl2:Et2O:Heptane:Et3N 1:1:2:0.25->1:1:1:0.25) to give the title compound in 28% yield as an oil.

reactant | 4-(5-methyl-pyridin-2-ylmethyl)phenol | 0.8 mmol | CC=1C=CC(=NC1)CC1=CC=C(C=C1)O | C13H13NO
reactant | ethyldiisopropylamine | 1.5 mmol | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trichloromethyl chloroformate | 1.0 mmol | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 4-phenylpiperidine | 1.5 mmol | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-Phenyl-piperidine-1-carboxylic acid 4-(5-methyl-pyridin-2-ylmethyl)-phenyl ester | 28% yield | CC=1C=CC(=NC1)CC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C1=CC=CC=C1 | C25H26N2O2
